US09079909B2
To a solution of ethyl 2-(5-acetamido-3-(4-fluorophenyl)-4-(phenylethynyl)-1H-pyrazol-1-yl)acetate (1 g, 2.5 mmol) in ethanol (40 mL) and methanol (10 ml) was added sodium borohydride (466 mg, 12.3 mmol and the reaction stirred at room temperature for 16 h. The reaction mixture was concentrated in vacuo and the residue was dissolved in CH2Cl2 and washed with a dilute NH4Cl solution. The aqueous was extracted with CH2Cl2 and the combined organic extracts were dried over MgSO4, filtered and evaporated. The crude product was suspended in CH2Cl2 (20 ml), heated to reflux, allowed to cool and the product was filtered and dried in vacuo to give N-(3-(4-fluorophenyl)-1-(2-hydroxyethyl)-4-(phenylethynyl)-1H-pyrazol-5-yl)acetamide as a white solid (659 mg), which was used as such in the subsequent step.

reactant | ethyl 2-(5-acetamido-3-(4-fluorophenyl)-4-(phenylethynyl)-1H-pyrazol-1-yl)acetate | 2.5 mmol, 1 g | C(C)(=O)NC1=C(C(=NN1CC(=O)OCC)C1=CC=C(C=C1)F)C#CC1=CC=CC=C1 | C23H20FN3O3
reactant | sodium borohydride | [BH4-].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | methanol | 10 ml | CO | CH4O
product | N-(3-(4-fluorophenyl)-1-(2-hydroxyethyl)-4-(phenylethynyl)-1H-pyrazol-5-yl)acetamide | 659 mg | FC1=CC=C(C=C1)C1=NN(C(=C1C#CC1=CC=CC=C1)NC(C)=O)CCO | C21H18FN3O2
